US08389511B2
1-Acetyl-6-bromo-3-methyl-1,3-dihydro-2H-indol-2-one
To 6-bromo-3-methyl-1,3-dihydro-2H-indol-2-one (11.2 g) were added acetic anhydride (12 ml) and xylene (120 ml), and the mixture was refluxed for 5 hours. After the reaction was complete, water was added to the reaction solution, and the mixture was extracted with ethyl acetate solution. This ethyl acetate solution was washed successively with water, a saturated aqueous sodium hydrogen carbonate solution and an aqueous sodium chloride solution, dried over magnesium sulfate, filtered, and concentrated. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate=4/1) to give the title compound (9.5 g) as a red solid.

reactant | 6-bromo-3-methyl-1,3-dihydro-2H-indol-2-one | 11.2 g | BrC1=CC=C2C(C(NC2=C1)=O)C | C9H8BrNO
reactant | acetic anhydride | 12 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | xylene | 120 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | water | O | H2O
product | 1-Acetyl-6-bromo-3-methyl-1,3-dihydro-2H-indol-2-one | 9.5 g | C(C)(=O)N1C(C(C2=CC=C(C=C12)Br)C)=O | C11H10BrNO2
